US08314240B2
351 mg of methyl 4-{[(6-{(2-fluoropropyl)[(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}benzoate was dissolved in 5.00 mL of THF and 5.00 mL of methanol, and 2.03 mL of a 1 M aqueous sodium hydroxide solution was added thereto, followed by stirring at 50° C. for 4 hours. The reaction liquid was concentrated under reduced pressure, to the obtained residue were added a 5% w/v aqueous citric acid solution and chloroform, and the organic layer was separated using a Phase Separate-filter manufactured by Isotute, and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was dissolved in 5.00 mL of ethanol, and 0.765 mL of an aqueous sodium hydroxide solution was added thereto, followed by concentration under reduced pressure. The obtained crude product was crystallized by the addition of isopropanol/ethanol, collected by filtration, and dried under reduced pressure to obtain 268 mg of sodium 4-{[(6-{(2-fluoropropyl)[(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}benzoate.

reactant | methyl 4-{[(6-{(2-fluoropropyl)[(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}benzoate | 351 mg | FC(CN(C1=C(C=C2CCCC2=C1)OCC1=CC=C(C(=O)OC)C=C1)S(=O)(=O)C=1SC=C(N1)C)C | C25H27FN2O5S2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
solvent | methanol | 5.00 mL | CO | CH4O
product | sodium 4-{[(6-{(2-fluoropropyl)[(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}benzoate | 268 mg | FC(CN(C1=C(C=C2CCCC2=C1)OCC1=CC=C(C(=O)[O-])C=C1)S(=O)(=O)C=1SC=C(N1)C)C.[Na+] | InChI=1S/C24H25FN2O5S2.Na/c1-15(25)12-27(34(30,31)24-26-16(2)14-33-24)21-10-19-4-3-5-20(19)11-22(21)32-13-17-6-8-18(9-7-17)23(28)29;/h6-11,14-15H,3-5,12-13H2,1-2H3,(H,28,29);/q;+1/p-1
